US05789623
Preparation of 2'-hydroxy-2-[bis(1-naphthyl)phosphino]-biphenyl
14.1 g (60 mmol) of 6-chloro-6H-dibenz[c,e][1,2]-oxaphosphorine in 50 ml of anhydrous o-xylene are introduced, in an argon atmosphere with stirring, and a solution of 150 mmol of 1-naphthylmagnesium bromide in tetrahydrofuran is added dropwise. The temperature increases in the course of this from 25° to 45° C. The mixture is then stirred for 3 hours at 80° C. and 5 hours at 120° C. The mixture is cooled to room temperature and 100 ml of water are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 19.0 g of colorless oil are obtained. By crystallization with methanol/water, 10:1, 22.8 g (89%) of colorless crystals having melting point 255° to 256° C. are obtained.

reactant | 6-chloro-6H-dibenz[c,e][1,2]-oxaphosphorine | 60 mmol, 14.1 g | ClP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C12H8ClOP
reactant | 1-naphthylmagnesium bromide | 150 mmol | C1(=CC=CC2=CC=CC=C12)[Mg]Br
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | o-xylene | 50 ml | CC=1C=CC=CC1C | C8H10
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2'-hydroxy-2-[bis(1-naphthyl)phosphino]-biphenyl | 19.0 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)P(C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C32H23OP
